Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
jaundice
 
Major Surgical or Invasive Procedure:
ERCP

 
History of Present Illness:
___ male with a history of hypothyroidism, dementia and
history of colon cancer status post resection in ___ who is
transferred from ___ on ___ for evaluation
of biliary ductal dilatation and stricture.  

The patient presented to ___ on ___ with new
onset painless jaundice from his retirement home.  During the
course of the hospitalization the patient was found to have
elevated bilirubin, LFTs and alk phos.  He underwent multiple
imaging studies including an abdominal ultrasound, a CT abdomen
and pelvis and an MRI MRCP.  These findings showed a
dilated CBD to 18 mm. The patient underwent an ERCP on ___
to attempt to stent the common bile duct however, the patient 
coughed 
and the guidewire was displaced so stenting was not performed.

Cytologic brushings showed atypical cells from this ERCP. The
patient had a repeat ERCP attempted on ___ and this was
also unsuccessful. The patient was sent to interventional 
radiology
for transhepatic drainage of the gallbladder and for guidewire
placement for future ERCP. The outside documentation indicates 
that percutaneous biliary drainage was attempted but
unsuccessful and thus a percutaneous cholecystostomy drain was 
placed instead.

He received IV Pipracil and tazobactam while admitted at the
outside hospital.

I spoke with his healthcare proxy ___ her cell phone
___ to update her on the patient's clinical condition.  I
also confirmed the presence of a MOLST and healthcare proxy form
which are dated from ___ and list that the patient is DNR/DNI.

Currently the patient is experiencing generalized abdominal pain
that does not radiate but is focused in the upper abdomen and
right upper quadrant and associated with tenderness to 
palpation.

He has had sips and ice chips earlier today.

ROS:
unable to obtain 10pt ROS due to dementia.

 
Past Medical History:
The patient was diagnosed with colon carcinoma and treated at
___ with the right colectomy en bloc and small 
bowel
resection with oh moderately differentiated adenocarcinoma with
mucinous differentiation with all 35 lymph nodes free of
metastases.
The patient experienced delirium in ___ in the context of a 
UTI.
The patient also underwent appendectomy and tonsillectomy in the
past.

The patient also has known dementia and Moca into ___ was
14 out of 30 is going poorly in memory recall and language
 
Social History:
___
Family History:
Reviewed.  None pertinent to this hospitalization
 
Physical Exam:
ADMISSION EXAM:
==============
VS: ___ 0734 Temp: 98.1 PO BP: 146/81 HR: 81 RR: 18 O2 sat:
95% O2 delivery: RA 
GEN: sitting up in chair, jaundiced in NAD
HEENT/Neck: NC/AT, external ear intact, ++ icteric sclera, MMM,
OP clear
CV: RRR no m/r/g, no carotid bruits appreciated
PULM: CTAB no wheezes, rales, or crackles.  Symmetric expansion
GI: soft NT/ND +BS no rebound or guarding.  Perc chole tube from
RUQ with blood tinged bile in bag
GU: No CVA tenderness, no Foley
EXT: warm well perfused, no pitting edema
NEURO: alert, fluent speech,  not oriented.  no focal deficits

DISCHARGE EXAM:
==============
VITALS: afebrile, BP 135/70, HR 84, RR 18, 98& on RA
GENERAL: sitting upright in chair in NAD
EYES: PERRL, ENT: OP clear
CV: RRR, nl S1, S2, no M/R/G, no JVD
RESP: decreased BS R base
GI: + BS, soft, mildly distended without TTP; perc chole tube in
RUQ with bilious output
SKIN: Jaundiced
NEURO: Awake and alert, AOx2, cannot tell me many details about
his medical care, asks that I call sister 
___: lower extremities warm with trace edema b/l
PSYCH: pleasant, appropriate affect
Skin:  Extensive hematoma from RUQ to right flank extending
beyond midline of back.  Also descending to groin
 
Pertinent Results:
ADMISSION:
==========
___ 09:50PM BLOOD WBC-18.5* RBC-3.35* Hgb-10.4* Hct-29.5* 
MCV-88 MCH-31.0 MCHC-35.3 RDW-19.7* RDWSD-61.9* Plt ___
___ 09:50PM BLOOD ___
___ 06:44AM BLOOD Ret Aut-2.7* Abs Ret-0.09
___ 01:10PM BLOOD ___ 09:50PM BLOOD Glucose-120* UreaN-20 Creat-0.9 Na-140 
K-3.5 Cl-107 HCO3-18* AnGap-15
___ 09:50PM BLOOD ALT-327* AST-397* AlkPhos-328* 
TotBili-22.0*
___ 09:50PM BLOOD Calcium-8.1*
___ 06:44AM BLOOD calTIBC-169* Hapto-<10* Ferritn-2800* 
TRF-130*

INTERVAL:
========
CEA  7.8
Ca ___  3608

Cytology from brushing of CBD:
Negative for malignant cells

DISCHARGE:
==========
___ 06:42AM BLOOD WBC-15.4* RBC-3.02* Hgb-9.5* Hct-28.8* 
MCV-95 MCH-31.5 MCHC-33.0 RDW-21.4* RDWSD-74.6* Plt ___
___ 06:42AM BLOOD Neuts-77.8* Lymphs-8.0* Monos-9.3 Eos-1.6 
Baso-0.2 Im ___ AbsNeut-11.96* AbsLymp-1.23 AbsMono-1.43* 
AbsEos-0.25 AbsBaso-0.03
___:42AM BLOOD Plt ___
___ 06:42AM BLOOD Glucose-108* UreaN-4* Creat-0.6 Na-139 
K-4.1 Cl-103 HCO3-22 AnGap-14
___ 06:42AM BLOOD ALT-57* AST-81* AlkPhos-208* 
TotBili-11.5*
___ 06:42AM BLOOD Phos-1.4* Mg-1.9

PRIOR/OUTSIDE HOSPITAL:
========================
Fibrinogen 475
Ferritin 2800, TIBC 169
Haptoglobin <10 -> 36
Lipase 571
CEA 7.8

CA ___:  3608 

Bile Cx ___, from perc chole bag): 2+ PMNs, no organisms, Cx
pending
BCx (___): No growth
BCx (___): No growth

IMAGING:
========
CTA pancreas (___):
1. Extensive intrahepatic biliary dilation with hemorrhage with
likely occluded CBD stent containing blood products.  No 
evidence
of mass or gallstone causing biliary dilation.  Small bile duct
masses can be missed due to the presence of the CBD stent and
hemorrhage.  Likely multiple small intrahepatic peribiliary bile
lakes. 
2. Distended gallbladder despite percutaneous cholecystectomy
tube in the appropriate place.  High-dense material within the
gallbladder likely represent blood products. 
3. Periportal lymphadenopathy is non-specific. 
4. Mild small bowel ileus. 
5. Left renal hemorrhagic cysts. 
6. Left indirect inguinal hernia without complication evident. 

KUB (___):
Moderate gaseous distention of small and large bowels which is
nonspecific but most likely represents ileus. No free air. 
  
CXR (___):
No previous images.  There are low lung volumes, but no evidence
of acute pneumonia or vascular congestion.  Posterior
opacification on the lateral view is consistent with pleural
effusion, though it is unclear whether this is on the right or
left on the frontal projection, which merely shows blunting of
the costophrenic angles with mild atelectatic changes
bilaterally. 

ERCP (___):
Evidence of hemobilia noted. Initial cannulation attempts
identified a prior large false/submucosal tract, with wire
actually re-entering the duodenal lumen proximal to the ampulla.
Tight distal stricture noted with upstream dilation and filling
defects which most likely reflect hemobilia. Cytology brushings
taken of CBD stricture. Two 10mmx60mm fully covered metal stents
placed. 

OSH:
----
CT A/P (___):
Distal dilated common bile duct measuring up to 18 mm with
significant intrahepatic biliary tract dilation the common bile
duct ends with the rattail appearance that there is no obvious
mass surrounding the distal common bile duct at the ampulla
levator negative diagnosis is either a benign stricture or
pancreatic tumor which cannot be seen on this examination.  
There
is a 1 cm lesion in the right lobe of the liver of indeterminate
etiology.  There is markedly distended stomach and a proximal
duodenal sweep question secondary to market gallbladder
distention the patient is status post subtotal colectomy with a
wide ileal colon anastomosis.  A horseshoe kidney with normal
function is demonstrated.

MRCP (___):
Marked dilatation of the common bile duct with intrahepatic
ductal dilatation smooth tapering of the common bile duct at the
site of the narrowing there are may be a subtle mass at this
region which may represent a cholangiocarcinoma differential 
also
includes a benign stricture clinical correlation is suggested
pancreatic duct is normal in caliber pancreas is mildly atrophic
no discrete masses, marked distention of the gallbladder.
    
 
Brief Hospital Course:
___ with hx hypothyroidism, dementia, colon cancer s/p resection
in ___ presenting as transfer from ___ ___ for
evaluation of biliary ductal dilatation and hemobilia (s/p two
failed ERCPs and perc chole placement at ___), 
now s/p ERCP with
stenting on ___, with course c/b hemobilia, anemia, large right 
flank hematoma and
persistent leukocytosis.

# Common Bile Duct Stricture:
# Possible cholangitis/cholecystitis:
Patient presented with painless jaundice to ___ on ___.  
Imaging there revealed dilated CBD to 18mm and patient underwent 
two failed ERCPs (which appear to have resulted in creation of a 
false lumen). Cytology from ERCP at OSH showed atypical cells. 
Subsequently underwent ___ attempt at PTBD, which was
unsuccessful, and a perc chole tube was placed. He was 
transferred to ___ on ___ and underwent ERCP on ___. ___ 
ERCP showed a CBD stricture and evidence of hemobilia. Two 
uncovered metal stents were placed and brushings sent. CTA 
pancreatic
protocol ___ showed extensive intrahepatic biliary dilation, 
possibly occluded CBD stents (although downtrending LFTs were 
initially suggestive of stent patency), and no obvious mass or 
gallstone. Etiology of obstruction remains unclear, but absence
of pancreatic mass on CT and markedly elevated CA ___ makes 
cholangiocarcinoma a possible culprit.  However, cytology from 
___ showed only atypical cells and brushings from ___ 
ERCP were also negative for malignancy.  Bilirubin peaked at 26, 
and downtrended to 11 at the time of discharge.

Patient had leukocytosis for much of this admission; he was 
started on zosyn at CHA on ___, was initially on unasyn here, 
and then on ___ converted to  efepime/flagyl.  He completed 10 
days of IV antibiotics, and these were stopped on ___, given 
clinical stability.  His perc chole tube was repositioned on 
___, and WBC count started to trend downwards at that point, 
perhaps suggesting some incomplete gallbladder drainage 
(although had very good bilious and bloody output from PTBD).

Given his clinical stability and down-trending labs, he was 
deemed stable for discharge.  In a goals of care discussion, the 
patient and his healthcare proxy (sister ___ decided not to 
pursue further investigations into whether or not the biliary 
stricture was malignant.  The patient would not want aggressive 
treatments at this stage in his life (wants to avoid surgery, 
chemotherapy).  He will follow-up with ___ for perc chole 
evaluation in ___ weeks.  He will follow-up with ERCP as needed 
if symptoms develop or laboratory abnormalities (ex. increased 
bilirubin levels).  He will have weekly labs drawn for CBC, 
chemistry, LFTs.

# R flank ecchymosis: 
# Hemobilia:
# Melena:
# Normocytic anemia:
Hgb 10.4 on admission from unclear baseline (Hct 33.9 on ___ at
OSH), down to 8.0 on ___ with expanding R flank hematoma,
hemobilia on ERCP, bloody output from perc chole (with
radiographic evidence of gallbladder hemorrhage), and melena
(suggestive of gut transit of hemobilia). All consistent with
___ complication from PTBD attempt at OSH, which may
have resulted in damage to venous vessel and bleeding in setting
of initial coagulopathy. CTA pancreas ___ showed no evidence of
active extravasation, so lower suspicion for arterial bleed.
Discussed with ___ who recommend against angiogram
given likely low yield but are available for empiric R lobar
embolization if necessary. Hgb largely stable s/p 1u pRBC on ___
with appropriate bump, arguing against significant active
bleeding at present. Remains HD stable. He had 1u pRBCs on ___.  

Hemoglobin subsequently stabilized and patient showed no further 

signs of bleeding.  He should have a CBC checked weekly.

# Coagulopathy:
INR 3.0 on admission, likely elevated in setting of liver
dysfunction. Improved with vit K challenge and FFP initially but
then rose to 2.1 on ___. Repeat vit K challenge initiated, with
improvement to 1.9.

# Hypophosphatemia:
# Hypokalemia:
# Hypocalcemia:
Likely in setting of melena, transfusion, and poor PO intake.  
His electrolytes were aggressively repleted.

# "Bile Acid" Diarrhea
The patient developed watery, yellow and large volume diarrhea 
on ___ and ___.  It was not associated with fevers or worsening 
lab counts.  C diff and norovirus testing were negative (___).  
This diarrhea was thought to be a result of increased enteric 
bilirubin (secondary to hyperbilirubinemia).  The diarrhea was 
improving at the time of discharge.  The patient was started on 
cholestyramine to help with the diarrhea.  As hyperbilirubinemia 
and diarrhea improve, he may be able to stop cholestyramine.

# Dementia:
Unclear baseline, but per sister he is somewhat confused 
normally
(she has not seen him in a while and could not give specifics).
Currently AOx3 and improving. By the end of his hospitalization, 
he appeared 
to have capacity to decide his code status and the decision 
about future procedures if needed.

# Hypothyroidism:
He was continued on home levothyroxine

# Nutrition: regular diet

# Code: DNR, ok with intubation (Note: MOLST from OSH DNR/DNI, 
but
patient changed status on ___

# Health care proxy: Sister ___ at phone number: ___, 
cell phone: ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 25 mcg PO DAILY 
2. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain  
2.  Cholestyramine 4 gm PO BID 
Can stop after bilirubin level improves and diarrhea resolves  
3.  Levothyroxine Sodium 25 mcg PO DAILY  
4.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
- Bile obstruction
- Acute blood loss anemia
- Coagulopathy
- Dementia
- Hypothyroidism

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted for further evaluation of your bile 
obstruction.  You underwent a procedure called an ERCP and two 
stents were placed in the bile ducts.  Brushings were sent to 
the lab and did not show evidence of cancer.  You also had your 
biliary drain repositioned.  Your bilirubin is falling which 
means that your bile ducts are draining appropriately.

If you have any worsening symptoms after discharge (new 
abdominal pain or increased jaundice), please return to the 
hospital or call Dr. ___ office at ___ for an 
appointment.  The Interventional Radiology team will contact you 
when you need the have the biliary drain adjusted.

It was a pleasure taking care of you at ___.   

 
Followup Instructions:
___